US06114532
b. 4-chloro-3-nitro-N-(naphthalen-1-yl)-benzamide
To a solution of 2.8 g (0.02 mol) of 1-naphthylamine and 2.0 g (0.02 mol) of triethylamine in 50 ml tetrahydrofuran is added dropwise at 15-20° C. a solution of 4.4 g (0.02 mol) of 4-chloro-3-nitro-benzoic acid chloride in 20 ml tetrahydrofuran. The solution is stirred for 30 minutes at ambient temperature. Then the solvent is evaporated off and the residue is chromatographed on silica gel, eluting with methylene chloride. The desired fractions are concentrated by evaporation, triturated with ether, suction filtered and dried.

reactant | 1-naphthylamine | 0.02 mol, 2.8 g | C1(=CC=CC2=CC=CC=C12)N | C10H9N
reactant | triethylamine | 0.02 mol, 2.0 g | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-3-nitro-benzoic acid chloride | 0.02 mol, 4.4 g | ClC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3Cl2NO3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-chloro-3-nitro-N-(naphthalen-1-yl)-benzamide | ClC1=C(C=C(C(=O)NC2=CC=CC3=CC=CC=C23)C=C1)[N+](=O)[O-] | C17H11ClN2O3
